US04686227
To a solution of 7-chloro-2-methyl-3-methylthiomethylimidazo[2,1-a]isoquinoline (2 g) in chloroform (20 ml) was added portionwise 70% m-chloroperbenzoic acid (1.78 g). After being stirred under ice cooling for 30 minutes, the mixture was washed successively with aqueous sodium bicarbonate, water and brine, dried over magnesium sulfate, treated with activated charcoal and evaporated in vacuo. The residue was purified by column chromatography on silica gel (25 g) with a mixture of chloroform and methanol (50:1) as an eluent to afford a solid. This solid was recrystallized from ethanol to give 7-chloro-2-methyl-3-methylsulfinylmethylimidazo[2,1-a]isoquinoline (1.36 g).

reactant | 7-chloro-2-methyl-3-methylthiomethylimidazo[2,1-a]isoquinoline | 2 g | ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3CSC)C | C14H13ClN2S
reactant | m-chloroperbenzoic acid | 1.78 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-chloro-2-methyl-3-methylsulfinylmethylimidazo[2,1-a]isoquinoline | 1.36 g | ClC1=C2C=CN3C(C2=CC=C1)=NC(=C3CS(=O)C)C | C14H13ClN2OS
